US04159380
(a) 1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester
To 80.3 g. of 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (0.3 mol.) [prepared according to Journal of Heterocyclic Chemistry 9, 235-253 (1972)] dissolved in 270 ml. glacial acetic acid, are added 33.4 g. of triethylamine (0.33 mol.) and 7.5 g. of palladium on charcoal (10%). The mixture is hydrogenated at room temperature and a pressure of 2.5 atm. After about 19 hours the theoretical amount of hydrogen is absorbed. Then the catalyst is filtered off and the filtrate evaporated. The residue is treated with 200 ml. of water and extracted with ether. The combined ether extracts are dried and the ether distilled off. The oily 1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester is distilled in vacuo; b.p.0.3 144°-146°, which after a short time begins to crystallize, yield: 64.5 g. (92%).

reactant | 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 0.3 mol | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)CC | C12H14ClN3O2
reactant | triethylamine | 0.33 mol | C(C)N(CC)CC | C6H15N
catalyst | palladium on charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=C(C=2C1=NC=C(C2)C(=O)OCC)C | C12H15N3O2
